US07338958B2
x) Production of (RS)-S-(4-amino-2-methoxyphenyl)-S-methylsulfoximide
1.5 g (6.5 mmol) of (RS)-S-(2-methoxy-4-nitrophenyl)-S-methylsulfoximide in 100 ml of ethanol is mixed with 300 mg of palladium on carbon (10%×50% H2O) and hydrogenated for 45 minutes at room temperature and normal pressure. The batch is filtered and concentrated by evaporation. 1.0 g (5.1 mmol, corresponding to 79% of theory) of the product is obtained.

reactant | (RS)-S-(2-methoxy-4-nitrophenyl)-S-methylsulfoximide | 6.5 mmol, 1.5 g | COC1=C(C=CC(=C1)[N+](=O)[O-])S(=O)(=N)C | C8H10N2O4S
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
product | (RS)-S-(4-amino-2-methoxyphenyl)-S-methylsulfoximide | NC1=CC(=C(C=C1)S(=O)(=N)C)OC | C8H12N2O2S
